US05112988
A solution of 3-nitromethyl-4,4-diphenylcyclohexanone (69 g), ethylene glycol (30.48 g) and chlorotrimethylsilane (106.8 g) in anhydrous methylene chloride (1 liter) is brought to reflux for 2 hours, then cooled to +25° C., washed with saturated aqueous sodium hydrogen carbonate solution (600 cc) and then with saturated aqueous sodium chloride solution (300 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel with a slight excess pressure of nitrogen (0.04-0.063 mm, diameter 6.5 cm, height 45 cm), eluting with a mixture of cyclohexane and ethyl acetate (90:10 by volume) and collecting 500-cc fractions. Fractions 1 to 3 are combined and concentrated to dryness under reduced pressure (2.7 kPa). (RS)-6-Nitromethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane (63.3 g) is obtained in the form of white crystals, m.p. 148° C.

reactant | 3-nitromethyl-4,4-diphenylcyclohexanone | 69 g | [N+](=O)([O-])CC1CC(CCC1(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H19NO3
reactant | ethylene glycol | 30.48 g | C(CO)O | C2H6O2
reactant | chlorotrimethylsilane | 106.8 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
product | (RS)-6-Nitromethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane | 63.3 g | [N+](=O)([O-])CC1C2(OCCO2)CCCC1(C1=CC=CC=C1)C1=CC=CC=C1 | C21H23NO4
